data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,2954,"CCCCC=CC=C[O+:1]([B-](F)(F)F)[CH:2](C)[O:3]CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4996,"BrC(Br)Br.CC(C)(C)OC(=O)NCCCCC[CH2:1][O:2][P+:3](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Br-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,4872,"N#CC1=CO[C:1]([N+](=O)[O-])([H:2])[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,5020,"CC(=O)O.CC(=O)[O-].CC1CC(O)([CH:1]=[S+:2]C2=CC=CC=C2)C(C)(CCCO[Si](C)(C)C(C)(C)C)C=C1CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C.[Na+].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4558,"COC(=O)CCC1=C(C)NC=C1C.COC(OC)[O:1]C.O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7697,"O=C(N[NH:1][CH:2](C1=CC=C(Br)C=C1)[OH2+:3])C1=CC=CC=C1.O=C([O-])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1569,"C[Si-](C)(C)(F)C[C:1]#[CH:2].[CH2:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8088,"C=C[C:1](O)([NH2+:2]CC)[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6828,"CCC(=O)O[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.O=[S+:5](=O)O|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,5021,"Cl[C:1]1=[N:2]C=CC=C1.[NH2-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5439,"CN(C)C(=O)C=C(CC1=CC=CC=C1)[O:1][H:2].[NH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10198,"CC[O:1]P(C)(C)(C)N(NC(=O)OC)C(=O)OC.[N-]=[N+]=[N:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2952,"Cl[C:1]1([O-:2])OCC[NH2+:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1868,"COC1=CC(CC([O-])(Cl)[NH+:1](C(C)C2=CC=CC=C2)[H:2])=CC(OCC2=CC=CC=C2)=C1OC.O.[Na][OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10015,"CCC[CH:1]([H:2])[C:3](C1=C(O)C=CC(Br)=C1)=[N+:4]1CCCC1C1=NN=NN1.O.O=C(C(F)(F)F)[O-:5].O=CC1=CC=C([N+](=O)[O-])C=C1|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2071,"C[O:1][H:2].[O-]CC#[C-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4518,"C1=CC=[C:1]([Li:2])C=C1.CCOC(=O)CC[C:3](C)=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2269,"C1=C[CH:1]=[CH:2]N1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,7841,"CC(=O)CCC1C2(C)CCCC(C)(C)C2CCC1(C)[OH:1].[H:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3014,"CCO[C:1](C)([O-:2])[O:3]C(C)=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,10316,"CCC([O-])[OH+:1][K:2]|((2, 1), 1)"
train,pmechdb_split_0,0,4550,"O[C:1]1=[CH:2]C=C(Br)C=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5628,"CCOC(=O)N([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[N-:1]C(=O)OCC.COC1=CC(OC)=C2C(=C1)C=C(CO)C(Br)=C2OC.COC1=CC(OC)=C2C(=C1)C=C(OCC1=CC=CC=C1)C(C(=O)[O:2][H:3])=C2OC|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3693,"C1=CC=[N:1]C=C1.CCOC(=O)C(NC(=O)CC(N)=N[O+:2](S(C)(=O)([O-])Cl)[H:3])C1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2556,"COC(C1CC1SC(C)(C)C)=[O+:1][Li-:2][Br]|((2, 1), 1)"
train,pmechdb_split_0,0,778,"CC(C)NC(C)C.CCCCCCCC=[O:1].CC[Si](CC)(CC)C(C)=C[N](C(C)(C)C)[Li:2]|(1, 2)"
train,pmechdb_split_0,0,5958,"CC(C)NC(C)C.[Li][O]C(C1=CC=CC=C1)C(C)N(C)[C:1]([CH:2](C)[H:3])=[O+:4][Li-][N:5](C(C)C)C(C)C|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,5151,"C[S+:1]1C[CH2:2]1.[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,593,"O=S(=O)(O)[O:1][H:2].OCCOC1([OH:3])CCCCC1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8421,"Cl[P:1](Cl)Cl.[CH3][Mg:2][Cl]|(1, 2)"
train,pmechdb_split_0,0,3276,"O[CH:1]=[OH+:2].[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5200,"CC(C)(C)OC(=O)N1C=C[C+:1]2C(=O)N3CC(O[Si](C)(C)C(C)(C)C)C(O[Si](C)(C)C(C)(C)C)C3C(NC(=O)OCC3=CC=CC=C3)[C:2]12[H:3].O.O=P1([O-:4])OC2=CC=C3C=CC=CC3=C2C2=C(C=CC3=C2C=CC=C3)O1|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,10186,"CN[C+:1](O)[NH:2]C|(2, 1)"
train,pmechdb_split_0,0,6423,"C=C[C:1]([O:2][H:3])=[NH+:4]C1CCCCC1.[OH2:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,10209,"C[S:1](=[O:2])[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8054,"BrC1=CC=C(C(CC[C:1](C2=CC=CC(Br)=C2)=[OH+:2])=[O:3])C=C1.CO.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7803,"CC12CCC(=[N+]3CCCC3C(=O)[O-])CC1([O-:1])CCC2=O.O.O=C([O-])C1CCC[NH+:2]1[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6200,"CO[C:1](OC)([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6422,"CC1(C)OC(C(C=O)OCC2=CC=CC=C2)C(C(C=[O+:1][H:2])OCC2=CC=CC=C2)O1.CS.O=C(C(F)(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7427,"C=CC1=C(C(=O)[O:1][H:2])N2C(=O)C(NC(=O)CC3=CC=CC=C3)C2SC1.CC(C)OC(=O)C(CO)NC(=O)OC(C)(C)C.CCOC(=O)N([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[N-:3]C(=O)OCC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3884,"CC1=CC=C(S(=O)(=O)[O-])C=C1.COC(CC[CH:1]1C[C:2]12C=CC(C)=C[C+:3]2OC)=[O:4].O|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,6517,"CC(=O)O.CC(=O)OI1OC(=O)C2=C1C=CC=C2.CC(=O)O[I:1]1(OCC(=CC=C(C=O)SCC[Si](C)(C)C)SCC[Si](C)(C)C)([O:2]C(C)=O)OC(=O)C2=C1C=CC=C2|((1, 2), 2)"
train,pmechdb_split_0,0,5896,"CC(=O)[CH:1](C)[Br:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3922,"[O-][Cl+3]([O-])([O-])[O:1][Li:2]|((2, 1), 1)"
